US06387911B1
2-Aminomethyl-3-chloropyridine dihydrochloride
To a 0° C. solution of 738 mg (5.16 mmol) of 3-chloro-2-(hydroxymethyl)pyridine in 10 mL of toluene, was added 2.13 g (7.74 mmol) of diphenylphosphoryl azide followed by 1.18 g (7.74 mmol) of DBU. After stirring at room temperature overnight, the reaction was partitioned between EtOAc and sat. aq. NaHCO3. The organic layer was separated and the aqueous phase was washed with EtOAc (3×). The combined organic extracts were dried (MgSO4) and concentrated to a dark oil. This resultant crude residue was chromatographed on SiO2 using 10:90 EtOAc-hexanes to afford the title compound contaminated with an aromatic impurity. Triphenylphosphine (1.63 g, 6.20 mmol) was added to a solution of the crude azide in THF:H2O (10:0.5 mL). After stirring overnight, the reaction was concentrated. This residue was diluted with EtOAc, and HCl (2.6M in ]EtOAc) was added dropwise to precipitate out the amine hydrochloride. Stirring was continued for 20 min, after which time the mixture was filtered and rinsed with EtOAc to afford the title compound as a white solid: 1H NMR (CD3OD) δ8.57 (d, 1H, 4.7 Hz), 7.94 (d, 1H, 8.1 Hz), 7.44 (dd, 1H, 4.7, 8.0 Hz), 4.40 (s, 2 Hz).

reactant | 3-chloro-2-(hydroxymethyl)pyridine | 5.16 mmol, 738 mg | ClC=1C(=NC=CC1)CO | C6H6ClNO
reactant | diphenylphosphoryl azide | 7.74 mmol, 2.13 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 7.74 mmol, 1.18 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Aminomethyl-3-chloropyridine dihydrochloride | Cl.Cl.NCC1=NC=CC=C1Cl | InChI=1S/C6H7ClN2.2ClH/c7-5-2-1-3-9-6(5)4-8;;/h1-3H,4,8H2;2*1H
